US04012392
1-Benzyl-3,3-dimethyl-2-(p-methoxybenzyl)-4-piperidone hydrochloride
A mixture of 24.5 g of crude dimethyl 2,2-dimethyl-3-(p-methoxybenzyl)-3,3'-iminodipropionate, 27 g of benzyl chloride, 23 g of potassium iodide, 40 g of potassium carbonate and 300 ml of methyl ethyl ketone is refluxed and stirred during 35 hours. The mixture is cooled and evaporated in vacuo whereupon the residue is treated with chloroform. Inorganic material is removed by filtration and the filtrate is concentrated in vacuo leaving a residue which is shaken with 300 ml of 4 N hydrochloric acid and 100 ml of petroleum ether in order to remove neutral products. After basification with aqueous ammonia, the N-benzyl-2,2-dimethyl-3-(p-methoxybenzyl)-3,3'-iminodipropionic acid dimethylester is extracted from the mixture by shaking with chloroform. It is obtained in nearly quantitative yield, and, without purification submitted to a Dieckmann cyclization using 5.2 g of sodium hydride (50% dispersion in oil) and 200 ml of dimethylformamide. Further processing is carried out according to the directions already described in preceding examples, giving the above-mentioned product which is recrystalized from ethanol/ether. Yield 35%. Melting point 161° - 162° C, with decomposition.

reactant | dimethyl 2,2-dimethyl-3-(p-methoxybenzyl)-3,3'-iminodipropionate | 24.5 g | CC(C(=O)OC)(C(NCCC(=O)OC)CC1=CC=C(C=C1)OC)C | C18H27NO5
reactant | benzyl chloride | 27 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium iodide | 23 g | [I-].[K+]
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 4 N, 300 ml | Cl | ClH
solvent | methyl ethyl ketone | 300 ml | C(C)C(=O)C | C4H8O
product | 1-Benzyl-3,3-dimethyl-2-(p-methoxybenzyl)-4-piperidone hydrochloride | quantitative yield | Cl.C(C1=CC=CC=C1)N1C(C(C(CC1)=O)(C)C)CC1=CC=C(C=C1)OC | InChI=1S/C22H27NO2.ClH/c1-22(2)20(15-17-9-11-19(25-3)12-10-17)23(14-13-21(22)24)16-18-7-5-4-6-8-18;/h4-12,20H,13-16H2,1-3H3;1H
